US07491441B2
To a mixture containing 32 grams of 2,7-dihydroxynaphthalene and 26.3 grams of potassium hydroxide in 140 ml of water which had been cooled to 10° C. was slowly added 56.8 grams of dimethylthiocarbamoyl chloride in 88 ml of tetrahydrofuran. The temperature was maintained below 12° C. throughout the addition. The solid which formed was filtered, washed with water, reslurried in methanol and filtered to produce 50.2 grams of dimethyl-thiocarbamic acid O-(7-dimethylthiocarbamoyloxy-naphthalen-2-yl) ester. After drying this was placed in a round bottom flask and heated under a nitrogen atmosphere at 250° C. for 1.5 hours. The mixture was cooled and the solid recrystallized from ethyl acetate to give 17 grams of dimethyl-thiocarbamic acid S-(7-dimethylcarbamolysulfanyl-naphthalene-2-yl) ester. This was added to a mixture of 50 ml of ethanol and a solution of 22.4 grams of potassium in 32 mil of water, and then heated at reflux for 30 minutes. The mixture was cooled, diluted with 300 ml of water and acidified with hydrochloric acid. The solid which formed was filtered and dried yielding 8.5 grams of naphthalene-2,7-dithiol (9).

reactant | 2,7-dihydroxynaphthalene | 32 grams | OC1=CC2=CC(=CC=C2C=C1)O | C10H8O2
reactant | potassium hydroxide | 26.3 grams | [OH-].[K+]
reactant | dimethylthiocarbamoyl chloride | 56.8 grams | CN(C(=S)Cl)C | C3H6ClNS
solvent | water | 140 ml | O | H2O
solvent | tetrahydrofuran | 88 ml | O1CCCC1 | C4H8O
product | dimethyl-thiocarbamic acid O-(7-dimethylthiocarbamoyloxy-naphthalen-2-yl) ester | 50.2 grams | CN(C(=S)OC1=CC=C2C=CC(=CC2=C1)OC(N(C)C)=S)C | C16H18N2O2S2
